US08859774B2
(R)-tert-butyl 1-(4-fluorophenyl)-4a-(4-(trifluoromethyl)picolinoyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate (2 g, 2.65 mmol) was dissolved in a solution of HCl in dioxane (4M) (13.27 ml, 53.1 mmol) and the reaction mixture was stirred at room temperature for 45 minutes. The solvent was removed in vacuo to give an orange gum. This was treated with a mixture of 10% methanol (containing 1% of ammonia)/dichloromethane until complete dissolution of the gum, then the solvent was removed in vacuo to give an orange solid. The crude product was purified by chromatography on silica gel (gradient: 0-10% methanol (containing 1% of ammonia) in dichloromethane) to give (R)-(1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(4-(trifluoromethyl)pyridin-2-yl)methanone (810 mg) as a pale orange solid. LCMS (Method F, ES-API): RT 1.41 min, m+H=443.2.

reactant | (R)-tert-butyl 1-(4-fluorophenyl)-4a-(4-(trifluoromethyl)picolinoyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 2.65 mmol, 2 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(C2=NC=CC(=C2)C(F)(F)F)=O)C(=O)OC(C)(C)C | C28H26F4N4O3
reactant | dioxane | 53.1 mmol, 4M, 13.27 ml | O1CCOCC1 | C4H8O2
reactant | methanol | CO | CH4O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | HCl | Cl | ClH
product | (R)-(1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(4-(trifluoromethyl)pyridin-2-yl)methanone | 810 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCNC[C@]1(C2)C(=O)C2=NC=CC(=C2)C(F)(F)F | C23H18F4N4O
